US07635715B2
Step F: Preparation of 1,1-Dimethylethyl N-((8-fluoro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate
In a sealed flask was combined ethyl 8-fluoro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-carboxylate (1.8 g, 5.6 mmol), dioxane (75 mL), tert-butyl 2-aminoacetate hydrochloride (3.8 g, 22 mmol), and N-ethyl-N-isopropylpropan-2-amine (3.9 mL, 22 mmol). The flask was sealed and heated at 90° C. for 10 hours. After cooling to room temperature, the reaction was concentrated to give a solid that was purified by flash chromatography (20% EtOAc/hexane) to afford a white solid (1.9 g). MS m/e=406.1 (M+H)+.

reactant | ethyl 8-fluoro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-carboxylate | 5.6 mmol, 1.8 g | FC=1C=CC=C2C(=C(C(C3(CCOCC3)C12)=O)C(=O)OCC)O | C17H17FO5
reactant | tert-butyl 2-aminoacetate hydrochloride | 22 mmol, 3.8 g | Cl.NCC(=O)OC(C)(C)C
reactant | N-ethyl-N-isopropylpropan-2-amine | 22 mmol, 3.9 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dioxane | 75 mL | O1CCOCC1 | C4H8O2
product | 1,1-Dimethylethyl N-((8-fluoro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate | 1.9 g | FC=1C=CC=C2C(=C(C(C3(CCOCC3)C12)=O)C(=O)NCC(=O)OC(C)(C)C)O | C21H24FNO6
